US04871842
In 20 ml of methanol is dissolved 0.4 g of N-[N-[(S)-5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-N-(indan-2-yl)glycine tert-butyl ester, and a catalytic reduction is carried out at ambient temperature and under atmospheric pressure using 10% palladium-carbon (50% wet, 0.4 g) as a catalyst. After stirring at room temperature for 4 hours, the catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure to give 0.3 g of N-[N-[(S)-5-(4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-N-(indan-2-yl)glycine tert-butyl ester as a colorless oil.

reactant | N-[N-[(S)-5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-N-(indan-2-yl)glycine tert-butyl ester | 0.4 g | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N[C@@H](CCCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC)C)=O)=O | C39H55N3O7
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 0.4 g | [C].[Pd]
product | N-[N-[(S)-5-(4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-N-(indan-2-yl)glycine tert-butyl ester | 0.3 g | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N[C@@H](CCCCC1CCNCC1)C(=O)OCC)C)=O)=O | C31H49N3O5
